US05889010
A. 3-(2-Amino4-fluoro-phenylamino)-propan-1-ol
A mixture of 9.12 gm of 3-(2-nitro-4-fluoro-phenylamino)-propan-1-ol and 4.0 gm of 10% Pd on carbon is suspended in 300 ml methanol and shaken at ambient temperature under hydrogen (40 psi) for 12 hours. Thereafter, insoluble materials are removed by filtration and the reaction mixture is concentrated to a dark brown oil (5.25 gm of crude 3-(2-amino4-fluoro-phenylamino)-propan-1-ol).

reactant | 3-(2-nitro-4-fluoro-phenylamino)-propan-1-ol | 9.12 gm | [N+](=O)([O-])C1=C(C=CC(=C1)F)NCCCO | C9H11FN2O3
solvent | methanol | 300 ml | CO | CH4O
catalyst | Pd on carbon | 4.0 gm | [Pd] | Pd
product | 3-(2-Amino4-fluoro-phenylamino)-propan-1-ol | NC1=C(C=CC(=C1)F)NCCCO | C9H13FN2O
